US04008066
31.4 g of 2,6-dimethylanilinoacetic acid methyl amide are dissolved in 250 ml of chlorobenzene. 1.5 ml of dimethyl formamide are added to this solution and the mixture is heated to 110° C. At this temperature 14.3 ml of chloroacetyl chloride are added dropwise with stirring. After 1 1/2 hours the evolution of HCl has virtually ceased. The reaction mixture is allowed to cool and concentrated in a rotary evaporator to leave as residue a blackish-brown oil which is crystallised from ethyl acetate with the addition of animal charcoal. Yield: 22.4 g of N-methyl-[N'-(2,6-dimethylphenyl)-N'-chloroacetylamino]-acetamide (m.p. 140° C-142° C). N,N-dimethyl-(N'-(2,6-dimethylphenyl)-N'-chloroacetylamino]-acetamide was obtained in analogous manner; m.p. 74°-76° C (from ether).

reactant | 2,6-dimethylanilinoacetic acid methyl amide | 31.4 g | CNC(CNC1=C(C=CC=C1C)C)=O | C11H16N2O
reactant | dimethyl formamide | 1.5 ml | CN(C=O)C | C3H7NO
reactant | chloroacetyl chloride | 14.3 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | HCl | Cl | ClH
solvent | chlorobenzene | 250 ml | ClC1=CC=CC=C1 | C6H5Cl
product | N,N-dimethyl-(N'-(2,6-dimethylphenyl)-N'-chloroacetylamino]-acetamide | CN(C(CN(C(CCl)=O)C1=C(C=CC=C1C)C)=O)C | C14H19ClN2O2
